US07129238B2
(RS)-[(4-{[2-(2,6-Difluoro-3-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester (250 mg) was dissolved in EtOH (20 ml) and 0.9 N HCl in EtOH (5 ml) was added. After 10 min stirring 10% Pd/C (11 mg) was added and the mixture was hydrogenated 2 h at rt under 1 atm H2. Filtration, evaporation of the solvent and trituration with MeCN (4 ml) afforded the solid product that was washed with two portions of Et2O (5 ml). After drying on the vacuum at 50° C. 175 mg (87%) of (RS)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetamide hydrochloride were obtained. White solid. MS 364.0 ([M+H]+).

reactant | (RS)-[(4-{[2-(2,6-Difluoro-3-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester | 250 mg | C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CNC(C(OCC)C1=C(C(=CC=C1F)O)F)=O)=O | C26H25F2N3O5
reactant | HCl | 0.9 N | Cl | ClH
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd/C | 11 mg | [Pd] | Pd
product | (RS)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetamide hydrochloride | 175 mg, 87% | Cl.C(N)(=N)C1=CC=C(CNC(C(OCC)C2=C(C(=CC=C2F)O)F)=O)C=C1 | InChI=1S/C18H19F2N3O3.ClH/c1-2-26-16(14-12(19)7-8-13(24)15(14)20)18(25)23-9-10-3-5-11(6-4-10)17(21)22;/h3-8,16,24H,2,9H2,1H3,(H3,21,22)(H,23,25);1H
